* AD8005 SPICE Macro-model       
* Description: Amplifier
* Generic Desc: 180 MHz current feedback amp - 400mA
* Developed by: SMR,TRW,ADI                                          
* Revision History: 08/10/2012 - Updated to new header style
* 2.0 (03/2008)
* Copyright 1997, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*     distortion is not characterized
*
* Parameters modeled include:
*     closed loop gain and phase vs bandwidth
*     output current and voltage limiting
*     offset voltage (is static, will not vary with vcm)
*     ibias (again, is static, will not vary with vcm)
*     slew rate and step response performance
*     (slew rate is based on 10-90% of step response)
*     current on output will be reflected to the supplies 
*     vnoise, referred to the input
*     inoise, referred to the input
*
* END Notes
*
* Node assignments
*			non-inverting input
*			|  inverting input
*			|  |  positive supply
*			|  |  |   negative supply
*			|  |  |	  |  output
*			|  |  |   |  |
.SUBCKT AD8005		1  2  99  50 28


***** Input stage 

q1  50  3  5  qp1
q2  99  5  4  qn1
q3  99  3  6  qn1
q4  50  6  4  qp1
v1   4  2  0
i1  99  5  25e-6
i2   6  50 25e-6

cin1  1  98 1.6e-12
cin2  2  98 0.75e-12


***** Input error sources

Eos    3  1  poly(1) 20 98 5e-3 1
fbn   2  98 poly(1) vnoise3 5e-6 1e-3
fbp   1  98 poly(1) vnoise3 5e-6 1e-3

***** Gain stage Pole at 126KHz

f1    98  7 v1 1
rgain 7  98 1e6
cgain 7  98 630f

vcl1  99 8  1.1
vcl2  9  50 1.1
dcl1  7  8  d1
dcl2  9  7  d1


***** Second Pole at 300MHz

epole2 14 98 7 98 1
rpole2 14 15 1
cpole2 15 98 530p

***** Third Pole @ 600MHz

epole3 17 98 15 98 1
rpole3 17 16 1
cpole3 16 98 265p


***** Buffer stage

gbuf 98 13 16 98 1e-2
rbuf 98 13 1e2

***** Reference stage

eref   98 0 poly(2) 99 0 50 0 0 0.5 0.5
ecmref 30 0 poly(2) 1 0 2 0 0 0.5 0.5


***** VNoise stage

rnoise1 19 98 10.6e-3
vnoise1 19 98 0
vnoise2  21 98 0.53
dnoise1 21 19 dn

fnoise1 20 98 vnoise3 1
rnoise2 20 98 1


***** INoise stage

rnoise3 22 98 0.46e-3
vnoise3 22 98 0
vnoise4 24 98 0.6
dnoise2 24 22 dn

fnoise2 23 98 vnoise3 1
rnoise4 23 98 1



***** Output current reflected to supplies

fcurr 98 40 voc 1
vcur1 26 98 0
Vcur2 98 27 0
dcur1 40 26 d1
dcur2 27 40 d1

fout1 0  99 poly(2) vo1 vcur1 0 1 -1
fout2 50 0  poly(2) vo2 vcur2 0 1 -1
Iq 99 50 325.98e-6
Iq2 98 99 .051e-4
***** Output stage

rout1 10 90 2
rout2 10 91 2
vo1 99 90 0
vo2 91 50 0
voc 10 28 0

*rout3 28 98 1e6
gout1 10 90 99 13 0.5
gout2 10 91 50 13 0.5

vcl3 10 11 -1.3
vcl4 12 10 -1.3
dcl4 11 13 d1
dcl3 13 12 d1

				  

.model qp1 pnp()
.model qn1 npn(bf=100)
.model d1 d()
.model dn d()
.ends ad8005





