

**    LT6703-3  OUT GND  +IN  VS 
.SUBCKT LT6703-3 1   2    3   4
CDUM1 139 2 0.01p
CDUM2 2 3 0.01p
CIBIAS1 111 0 10p
CIBIAS2 110 0 10p
CLATCH1 141 0 10p
CPROP 136 0 2.0E-5
CRF1 128 0 2.2E-6
DHYST1 107 108 DSW
DHYST2 107 137 DSW
DILIM1 113 115 DSW
DILIM2 115 114 DSW
DOC1 122 123 DSW
DOC2 122 121 DSW
DPROP1 124 0 DIODE
DPROP2 0 124 DIODE
DPWR1 146 125 DSW
DPWR2 126 101 DSW
DVLIMOC1 119 143 DVLIM
EGND 102 0 101 0 1
**new EGND
*EGND 102 0 1
**
EHYST1 108 0 117 0 1E5
EIBIAS1 112 0 3 131 100
EILIM1 116 0 115 0 -100
EIN 140 0 117 0 1
EINCM1 105 0 3 0 1
EINCM2 106 0 131 0 1
ELDO2 119 0 101 120 1
EOC1 0 121 136 0 10
EOM 145 0 144 0 1
EREF1 131 0 135 127 1
EVCC1 133 0 4 0 1
EVEE1 135 0 2 0 1
**new EVEE1
*EVEE1 135 0 1
**
EVS 147 0 146 0 1
GCMRR 0 117 138 142 1.0E-5
GHYST2 0 124 137 0 1
GIBIAS1 3 0 110 0 1E-6
GIBIAS2 131 0 111 0 1E-6
GILIM1 0 113 143 118 1E4
GILIM2 114 0 118 143 1E4
GIN 0 117 3 139 1
GOUTOC 143 0 128 116 1
GPROP 0 124 141 0 1.0E+5
GPSRRN 0 117 2 142 1.0E-5
GPSRRP 0 117 4 142 1.0E-5
GPWRO1 125 0 143 118 10
GPWRO2 126 0 143 118 10
GRF1 0 128 123 0 2.2
IHYST2 0 107 3.5E+2
IIBIAS 0 109 1.0E-3
ILIM1 113 0 5.0
ILIM2 0 114 4.0E+1
IOC1 0 122 5.0E-3
IOS 3 131 1e-12
ITYP1 4 0 5.7E-6
ITYP2 0 2 5.7E-6
IVOS 0 117 5.0E-4
RDUMOC 130 118 0.001
RHYST2 107 0 1k
RHYST3 137 0 1
RIBIAS1 111 0 1
RIBIAS2 110 0 1
RIBIAS3 109 111 10k
RILIM1 115 0 1
RILIM2 113 0 1
RILIM3 114 0 1
RILIMOC 118 143 0.1
RIN 117 0 1
RINCM1 138 105 1
RINCM2 106 138 1
RLATCH0 141 140 1E-4
RLATCH1 141 0 1
RMID1 142 133 1
RMID2 135 142 1
ROC1 123 0 10
ROC2 122 0 10k
RPROP1 124 0 1
RPROP2 136 124 1.307
RPWR1 125 147 1E3
RPWR2 126 102 1E3
RRF1 128 0 0.4545
RSHD7 130 1 1E-4
RVCC 4 146 1E-4
RVEE 2 101 1E-4
RVNOI 139 131 6038.65
RVOM1 144 147 1
RVOM2 102 144 1
SIBIAS1 110 109 112 0 SWBIAS
VLDO2 0 120 1.5107
VREF1 0 127 4.0E-1
.MODEL SWHYST VSWITCH (ROFF=1E5 RON=1E-4 VON=1 VOFF=-1)
.MODEL SWLATCH VSWITCH (ROFF=1E7 RON=1E-4 VON=1.80 VOFF=2.20)
.MODEL SWLATCHX VSWITCH (ROFF=1E7 RON=1E-4 VON=2.20 VOFF=1.80)
.MODEL SWBIAS VSWITCH (ROFF=1E7 RON=1E-4 VON=2 VOFF=-2)
.MODEL SHDN VSWITCH (ROFF=1G RON=0.1 VON=1.80 VOFF=2.00)
.MODEL SHDNX VSWITCH (ROFF=1E7 RON=0.001 VON=2.00 VOFF=1.80)
.MODEL SHDNO VSWITCH (ROFF=1000000.00 RON=0.001 VON=1.80 VOFF=2.00)
.MODEL SHDNOX VSWITCH (ROFF=1000000.00 RON=0.001 VON=2.00 VOFF=1.80)
.MODEL DSW D (IS=1E-10 RS=0 XTI=0 KF=0)
.MODEL DIODE D (IS=1E-18 KF=0 XTI=0 RS=1E-8)
.MODEL DVLIM D (IS=1E-24 KF=0 RS=0 XTI=0)
.ENDS LT6703-3
*
****** Pinout     OUTA GROUND +INA -INB VS OUTB
*.SUBCKT LT6703  1     2      3    4  5   6 
*X1                3    100     5    2  1  100 LT6703-3_BASE
*X2              100     4      5    2  6  101 LT6703-2_BASE
*RD1 101 0 1E6
*.ENDS LT6703


