* Copyright © Linear Technology Corp. 5/27/05. All rights reserved.
****** Pinout: OUT  V-  IN-  IN+  V+
**************
.subckt LT6106 1   2    3    4   5
CG1 117 0 2.9E-7
CG3 118 0 5E-7
CIN1 3 2 4p
CIN2 2 4 4p
CIN3 3 5 4p
CIN4 5 4 4p
CPSRR1 114 119 1.2p
DIN1 5 112 DIN
DIN2 112 113 DIN
DIN3 113 22 DIN
DIN4 21 22 DIN
DIN5 22 21 DIN
DVL1 116 117 DVLIM1
DVL2 116 0 DVLIM2
DZ1 3 5 DZNR
DZ2 2 1 DZNR
EVLIM1 119 0 5 0 1
EVLIM2 120 0 VALUE={V(5)-2.7}
GG1 0 117 VALUE={4*TANH(V(23))}
GG3 0 118 117 0 6.2832
GGAIN 0 23 111 22 1.5625m
GINX1 0 111 21 0 1
GOUT 0 121 118 0 10m
GPSRR 0 122 5 2 3.162E-11
GPSRRO 111 0 122 0 1
GPWR 5 2 115 0 1E-6
IBIAS1 21 0 40n
IBIAS2 22 0 40n
IOS 21 22 2n
ISUPTC 0 115 1
IVOS 0 111 150u
MCUR 1 6 3 3 PCUR
MOUT1 119 121 6 6 NOUT
MOUT2 120 121 6 6 POUT
RA 23 0 800
RG1 117 0 160K
RG3 118 0 0.159155
RIN1 21 4 5k
RIN2 22 3 5k
RINX1 111 0 1
ROUT1 119 121 200
ROUT2 121 120 200
RPSRR1 122 0 1k
RPSRR2 122 114 1meg
RPWR 2 5 440k
RSUPTC 115 0 40 TC1=5m
.MODEL NOUT NMOS(KF=0 KP=5 VTO=-10M)
.MODEL POUT PMOS(KF=0 KP=5 VTO=10M)
.MODEL PCUR PMOS(KF=0 KP=5E-4)
.MODEL DIN D(KF=0 RS=0)
.MODEL DVLIM1 D(BV=1.2 IS=1E-10 KF=0 RS=0)
.MODEL DVLIM2 D(BV=5 IS=1E-10 KF=0 RS=0)
.MODEL DZNR D(BV=10 TBV1=0.75m IS=1E-12 KF=0 RS=0 XTI=0)
.ENDS LT6106
