* Version 2.0 Copyright © Linear Technology Corp. 10/19/04. All rights reserved.
*
* ----------------------------
* terminal definitions
* ----------------------------
*& VOUT 5
*& ADJUST 4
*& SHDN 3
*& VGND 2
*& VIN 1
*& CKT LT1761SD
* ------------------------------
*
.SUBCKT LT1761SD 5 4 3 2 1
XLT1761 5 4 3 2 1 LT1761_S
.ENDS LT1761SD
*
.SUBCKT LT1761_S 1 2 5 4 8
*
*********************
* power section
*********************
*
* pass transistor
QPWR 51 54 52 Q1
RBASE 54 84 28100
*
* input dependent current limit
VSENS 8 52 DC 0
RSENS 68 0 1.0E3
FSENS 0 68 VSENS 1.0E-3
FCL1 4 60 VSENS 0.33
RCL1 60 4 10
DCL1 60 61 DX
VCL1 61 62 DC 0
ECL1 62 4 8 4 0.03
FCL2 90 4 VCL1 1.0
*
* temperature dependent dropout voltage
RDROP 51 55 RVD 0.8
*
* quiescent current
GQC 8 4 80 4 12.09E-6
RQC 1 4 2.4E5
*
* load dependent ground pin current, linear
* A - B - (A*C)
GGPC1 8 4 POLY(3) 68 0 42 0 46 4 0 0.0215 -2.2e-8 0 0 0 -4.55E-4
GGPC2 4 45 POLY(1) 8 1 0.0E-3 1.0E-3
RGPC1 45 4 1.0E3
DGPC1 45 46 DX
RGPC2 46 4 1.0E5
*
* reverse input protection
ERVP1 40 0 8 4 1.0
DRVP1 40 41 DX
RRVP1 41 42 1.0E3
DRVP2 42 0 DX
RRVP2 42 0 1.0E4
*
* reverse input current
DRVP3 43 8 DX
RRVP3 43 4 1.9E5
*
* reverse output protection
SROP1 55 1 1 8 SROP1
*
********************
* error amplifier
********************
*
* adjust input with +/-7V clamp
RADJ 2 80 10
DAP1 80 89 DAC
DAP2 0 89 DAC
RAPB 80 4 REA 4.436E7
*
GEA1 4 81 80 90 1.8
REA1 81 4 1.0E4
CP1 81 82 1.0E-3
RP1 82 4 50
*
CFEED 84 88 7.5E-9
RFEED 88 90 3420
*
GEA2 4 84 81 4 1.0E-4
REA2 84 4 1.0E4
EEAP 85 4 41 0 1.0
DEAP 84 85 DX
DEAN 86 84 DX
VEAN 86 4 DC 1.4
*
****************************
* voltage reference
****************************
*
* temperature dependent 1.22V reference
IREF1 4 90 DC 1.22E-3
RREF1 90 4 RVR 1.0E3
FLOAD 90 4 VSENS 10.2E-6
*
****************************
* noise voltage
****************************
IR1 0 601 DC 1
IR2 0 602 DC 1
DR1 601 0 DRI
DR2 602 0 DRI
GR1 3 4 601 602 0.122
RR1 3 4 7.9E4
DR3 3 4 DX
DR4 4 3 DX
GR2 90 4 3 4 1.95E-3
*
***************************
* shutdown section
***************************
*
* shdn bias current
GSB 4 70 POLY(2) 42 0 5 4 0 0 0 0 1.33E-3
RSB 70 4 1.0E3
DSB 4 70 DAC
GSHDN 5 4 70 4 1.25E-7
*
* schmitt trigger, trip points 0.65V / 0.8V
GSD1 4 71 72 5 1.0E-1
RSD1 71 4 1.0E4
CSD1 71 4 2.2E-9
DSDP2 71 73 DTT
VSDP2 73 4 DC 1.8
DSDN2 74 71 DTT
VSDN2 74 4 DC -1.8
GTV1 4 72 POLY(1) 71 4 7.24E-4 2.98E-5
RTV1 72 4 1.0E3
SSHDN 90 4 71 4 SHDN
*
***********************
* models used
***********************
.MODEL DX D IS=8.2592e-16 RS=0 XTI=1 CJO=0 IBV=1e-10 TT=0
.MODEL DIC D IS=8e-13 BV=5.0 RS=0 XTI=0
.MODEL DAC D IS=8e-13 BV=6.3 RS=0 XTI=0
.MODEL DTT D IS=8e-16 RS=0 XTI=1 IBV=1e-10 TT=8.3E-6
.MODEL DRI D(IS=8.2592e-16 KF=3.2074e-19 RS=0 XTI=1 CJO=0 IBV=1e-10 TT=0)
*
.MODEL RVD RES(TC1=2.0E-4)
.MODEL RVR RES(TC1=1.5E-5)
.MODEL REA RES(TC1=0.5E-3)
*
.MODEL SROP1 VSWITCH(RON=0.001 ROFF=1.0E8 VON=0.0 VOFF=0.1)
.MODEL SHDN VSWITCH(RON=0.01 ROFF=1.0E8 VON=01.0 VOFF=-1.0)
*
.MODEL Q1 PNP IS=1e-15 BF=7500 XTI=0 NF=1.0
************************
*
.ENDS LT1761_S
*